US05061705
4-(4-Carbobutoxyphenyl)-2-hydroxy-6-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthalenyl)-pyrimidine
21 g (0.1 mole) of 6-ethynyl-1,2,3,4-tetrahydro-1,1,4,4-tetramethylnaphthalene, 16 g (0.1 mole) of methyl 4-formylbenzoate, 9 g (0.15 mole) of urea and 15 ml of concentrated sulfuric acid in 50 ml of n-butanol were refluxed for 4 hours. After cooling, the mixture was poured onto 500 ml of water, 100 ml of ether were added and stirring was carried out for 5 minutes. A solid was precipitated between phases. In a shaking funnel, the aqueous phase was separated off and the residue was again washed with water and then shaken thoroughly with 200 ml of petroleum ether. The precipitate was filtered off under suction and washed with petroleum ether. 6.5 g of the title compound of melting point 267°-277° C. were obtained in this manner.

reactant | 6-ethynyl-1,2,3,4-tetrahydro-1,1,4,4-tetramethylnaphthalene | 0.1 mole, 21 g | C(#C)C=1C=C2C(CCC(C2=CC1)(C)C)(C)C | C16H20
reactant | methyl 4-formylbenzoate | 0.1 mole, 16 g | C(=O)C1=CC=C(C(=O)OC)C=C1 | C9H8O3
reactant | urea | 0.15 mole, 9 g | NC(=O)N | CH4N2O
reactant | sulfuric acid | 15 ml | S(O)(O)(=O)=O | H2O4S
reactant | n-butanol | 50 ml | C(CCC)O | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | water | 500 ml | O | H2O
product | 4-(4-Carbobutoxyphenyl)-2-hydroxy-6-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthalenyl)-pyrimidine | 6.5 g | C(=O)(OCCCC)C1=CC=C(C=C1)C1=NC(=NC(=C1)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)O | C29H34N2O3
